US07459448B2
2-(3,4-Dimethoxy-phenylamino)-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-26)
To a solution of 4-dimethylaminomethylene-7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-a) (1.64 g, 4.6 mmol) in 50 mL EtOH was added K2CO3 (1.82 g, 11.04 mmol) and 1-(3,4-dimethoxyphenyl)guanidine (1.31 g, 5.06 mmol), and the reaction was heated to 80° C. for 12 h. The reaction was then cooled to 22° C., diluted with H2O, and treated with 1 M HCl to pH 3. The resulting solid was filtered and washed with H2O, followed by EtOH and Et2O. The crude product was dried in vacuo to give I-26 (1.8 g, 81%): HRMS Calcd. for C20H17IN4O3: 489.0423, Found 489.0431.

reactant | 4-dimethylaminomethylene-7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | 4.6 mmol, 1.64 g | CN(C)C=C1C(C2=C(NC(C1)=O)C=CC(=C2)I)=O | C13H13IN2O2
reactant | K2CO3 | 11.04 mmol, 1.82 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(3,4-dimethoxyphenyl)guanidine | 5.06 mmol, 1.31 g | COC=1C=C(C=CC1OC)NC(=N)N | C9H13N3O2
reactant | HCl | 1 M | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | H2O | O | H2O
product | 2-(3,4-Dimethoxy-phenylamino)-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)I)N1 | C20H17IN4O3
